US05763437
To a solution of 4-tert-butyl-2-hydroxymethylpyridine (0.36 g) in chloroform (10 ml) was added dropwise a solution of thionyl chloride (1 ml) in chloroform (5 ml) at room temperature and the mixture was stirred for 3 hours at ca. 50° C., After cooling to room temperature, the resultant mixture was concentrated in vacuo. The residue was taken up with chloroform and washed with saturated sodium carbonate aqueous solution, dried over magnesium sulfate, filtered and concentrated in vacuo to give 4-tert-butyl-2-chloromethylpyridine (0.37 g) as a brown oil.

reactant | 4-tert-butyl-2-hydroxymethylpyridine | 0.36 g | C(C)(C)(C)C1=CC(=NC=C1)CO | C10H15NO
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-tert-butyl-2-chloromethylpyridine | 0.37 g | C(C)(C)(C)C1=CC(=NC=C1)CCl | C10H14ClN
